US07514419B2
To a stirred solution of 3,5-dichloro-4-[3′-(4-fluorobenzyl)-4′-methoxyphenoxy] benzyl alcohol (0.53 g, 1.29 mmol) in CH2Cl2 (20 mL) at −78° C. was added BBr3 (0.82 g, 3.2 mmol). The reaction mixture was stirred at room temperature for 16 h, poured into ice water (100 mL) and extracted with CH2Cl2 (200 mL). The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluted with ethyl acetate-hexanes (1:4) to afford 3,5-dichloro-4-[3′-(4-fluorobenzyl)-4′-hydroxyphenoxy] benzyl bromide as a colorless oil (0.4 g, 67%): 1H NMR (300 MHz, CDCl3): δ 7.39 (s, 2H), 7.14 (dd, J=5.4, 8.7 Hz, 2H), 6.95 (t, J=8.7 Hz, 2H), 6.66 (d, J=9.0 Hz, 1H), 6.62 (d, J=2.7 Hz, 1H), 6.53 (dd, J=3.0, 8.7 Hz, 1H), 4.04 (s, 2H), 3.90 (s, 2H); TLC conditions: Uniplate silica gel, 250 microns; Mobile phase=ethyl acetate-hexanes (1:4); Rf=0.8.

reactant | 3,5-dichloro-4-[3′-(4-fluorobenzyl)-4′-methoxyphenoxy] benzyl alcohol | 1.29 mmol, 0.53 g | ClC=1C=C(CO)C=C(C1OC1=CC(=C(C=C1)OC)CC1=CC=C(C=C1)F)Cl | C21H17Cl2FO3
reactant | BBr3 | 3.2 mmol, 0.82 g | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 3,5-dichloro-4-[3′-(4-fluorobenzyl)-4′-hydroxyphenoxy] benzyl bromide | 0.4 g, 67% | ClC=1C=C(CBr)C=C(C1OC1=CC(=C(C=C1)O)CC1=CC=C(C=C1)F)Cl | C20H14BrCl2FO2
